US07576077B2
2-[3-({[5-(5-Chloro-2-fluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}thio)-5-(2-thienyl)-4H-1,2,4-triazol-4-yl]ethyl methanesulfonate
To a solution of 2-[3-({[5-(5-chloro-2-fluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}thio)-5-(2-thienyl)-4H-1,2,4-triazol-4-yl]ethanol in a mixture of DMF (1 ml) and pyridine (0.5 ml) was added methanesulfonyl chloride (20 uL). The mixture was stirred at r.t. for 24 h before poured onto water (10 ml). The crude product was filtered off and purified by chromatography on silica gel using 0-5% MeOH in DCM as eluent to give 43 mg of the title compound, which was used directly in the next step.

reactant | 2-[3-({[5-(5-chloro-2-fluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}thio)-5-(2-thienyl)-4H-1,2,4-triazol-4-yl]ethanol | ClC=1C=CC(=C(C1)C1=NC(=NO1)CSC1=NN=C(N1CCO)C=1SC=CC1)F | C17H13ClFN5O2S2
reactant | methanesulfonyl chloride | 20 uL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-({[5-(5-Chloro-2-fluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}thio)-5-(2-thienyl)-4H-1,2,4-triazol-4-yl]ethyl methanesulfonate | 43 mg | CS(=O)(=O)OCCN1C(=NN=C1C=1SC=CC1)SCC1=NOC(=N1)C1=C(C=CC(=C1)Cl)F | C18H15ClFN5O4S3
